US04383945
A 1:3 mixture of methyl 3-methyl-2-[(3S,4R)-3-[(1RS)-1-hydroxyethyl)-2-oxo-4-allylazetidin-1-yl]but-2-enoate (55 mg) was dissolved in tetrahydrofuran (2 ml) and triphenylphosphine (135 mg) and formic acid (19.4 μl) were added to the mixture. This mixture was cooled to 0° C. and a solution of diethyl azodicarboxylate (81 μl) in tetrahydrofuran (1 ml) was added. After stirring at the same temperature overnight, the mixture was diluted with ethyl acetate (30 ml), washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel (5 g) eluting with hexane and ethyl acetate (10:1-2:1) to give 25 mg of methyl 3-methyl-2-[(3S,4R)-3-[(1R)-1-formyloxyethyl]-2-oxo-4-allylazetidin-1-yl]but-2-enoate.

reactant | methyl 3-methyl-2-[(3S,4R)-3-[(1RS)-1-hydroxyethyl)-2-oxo-4-allylazetidin-1-yl]but-2-enoate | 55 mg | CC(=C(C(=O)OC)N1C([C@@H]([C@H]1CC=C)C(C)O)=O)C | C14H21NO4
reactant | triphenylphosphine | 135 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | formic acid | 19.4 μl | C(=O)O | CH2O2
reactant | diethyl azodicarboxylate | 81 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | methyl 3-methyl-2-[(3S,4R)-3-[(1R)-1-formyloxyethyl]-2-oxo-4-allylazetidin-1-yl]but-2-enoate | 25 mg | CC(=C(C(=O)OC)N1C([C@@H]([C@H]1CC=C)[C@@H](C)OC=O)=O)C | C15H21NO5
